US05245035
Triethylamine (13.8 ml) was added to a mixture of 4-[(2-ethylquinolin-4-yloxy)methyl]phenylboronic acid hydrochloride (12.74 g), 2-bromobenzonitrile (5.92 g) and palladium chloride (0.13 g) in butanol (80 ml) and water (40 ml) and the mixture was heated at reflux for 3 hours. The hot reaction mixture was filtered through diatomaceous earth and the filtrate was stirred while allowing to cool to ambient temperature. The mixture was then cooled to 4° C. for 30 minutes. The solid which crystallised was collected by filtration, washed with cold butanol (16 ml) and water (2×16 ml) and then dried at 55° C. to give 4'-[(2-ethylquinolin-4-yloxy)methyl]biphenyl-2-carbonitrile (10.8 g); m.p. 161°-162° C.; NMR (CDCl3): 1.4(t,3H), 2.97(q,2H), 5.35(s,2H), 6.76(s,1H), 7.4-7.6(m,3H), 7.6-7.8(m,6H), 8.0(d,1 H), 8.25(d,1H).

reactant | Triethylamine | 13.8 ml | C(C)N(CC)CC | C6H15N
reactant | 4-[(2-ethylquinolin-4-yloxy)methyl]phenylboronic acid hydrochloride | 12.74 g | Cl.C(C)C1=NC2=CC=CC=C2C(=C1)OCC1=CC=C(C=C1)B(O)O
reactant | 2-bromobenzonitrile | 5.92 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
solvent | butanol | 80 ml | C(CCC)O | C4H10O
solvent | water | 40 ml | O | H2O
catalyst | palladium chloride | 0.13 g | [Pd](Cl)Cl
product | 4'-[(2-ethylquinolin-4-yloxy)methyl]biphenyl-2-carbonitrile | 10.8 g | C(C)C1=NC2=CC=CC=C2C(=C1)OCC1=CC=C(C=C1)C=1C(=CC=CC1)C#N | C25H20N2O
